US04237067
N-dodecylacrylamide.
82 g of β-hydroxypropionamide and 195 g of dodecylamine were heated with 50 mg of 2,6-di-t-butyl-p-cresol for 4 hours in a temperature range of 130° C. to 190° C. unitl the evolution of ammonia was complete. After adding 5 g of polyphosphoric acid the reaction mixture was maintained at 160° C. for 1 hour and then distilled in an oil pump vacuum. The main run was taken off between 148° C. and 168° C. at 0.3 bar and crystallized in the receiver.

reactant | β-hydroxypropionamide | 82 g | OCCC(=O)N | C3H7NO2
reactant | dodecylamine | 195 g | C(CCCCCCCCCCC)N | C12H27N
reactant | 2,6-di-t-butyl-p-cresol | 50 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | ammonia | N | H3N
product | N-dodecylacrylamide | C(CCCCCCCCCCC)NC(C=C)=O | C15H29NO
